US07897792B2
5-Tributylstannylthiazole
A hexane solution of n-BuLi (4.14 mL, 10 mmol) was added dropwise to an anhydrous tetrahydrofuran solution of 5-bromothiazole (0.46 mL, 5.0 mmol) at −78° C. under nitrogen atmosphere over a period of 30 minutes, and the mixture was stirred for 1 hour. A solution of n-Bu3SnCl (1.41 mL, 5.0 mmol) in THF was then added dropwise over a period of 30 minutes at 78° C., and after stirring for 2 hours, the mixture was raised to room temperature and stirred for another hour. Three drops of a 1N HCl solution were added, and the organic layer was extracted from the aqueous layer twice with 10 mL of ether. The solvent was distilled away to yield the title compound (650 mg, 35 mL).

reactant | n-BuLi | 10 mmol, 4.14 mL | [Li]CCCC
reactant | 5-bromothiazole | 5.0 mmol, 0.46 mL | BrC1=CN=CS1 | C3H2BrNS
reactant | n-Bu3SnCl | 5.0 mmol, 1.41 mL | [Sn](CCCC)(CCCC)(CCCC)Cl
reactant | HCl | 1N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 5-Tributylstannylthiazole | 35 mL, 650 mg | C(CCC)[Sn](C1=CN=CS1)(CCCC)CCCC | InChI=1S/3C4H9.C3H2NS.Sn/c3*1-3-4-2;1-2-5-3-4-1;/h3*1,3-4H2,2H3;1,3H;
